US07449477B2
3-(5-chloro-3′-nitro-biphenyl-2-yl)-propionaldehyde
Heat a mixture of 2-bromo-4-chloro-phenylamine (8.24 g, 40 mmol), 3-nitrophenylboronic acid (10.0 g, 60 mmol), Pd(PPh3)4 (2.8 g) and Na2CO3 (17.0 g) in toluene (200.0 mL), EtOH (30.0 mL) and water (80.0 mL) to 80° C. (oil bath) with stirring overnight. Cool to room temperature, dilute the mixture with EtOAc, filter and concentrate. Dissolve the residue in EtOAc, wash with brine and dry over Na2SO4. Chromatograph the crude material on silica (gradient 25% EtOAc in hexane) to give 5.27 g of the desired product as a yellowish crystal.

reactant | 2-bromo-4-chloro-phenylamine | 40 mmol, 8.24 g | BrC1=C(C=CC(=C1)Cl)N | C6H5BrClN
reactant | 3-nitrophenylboronic acid | 60 mmol, 10.0 g | [N+](=O)([O-])C=1C=C(C=CC1)B(O)O | C6H6BNO4
reactant | Na2CO3 | 17.0 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | toluene | 200.0 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOH | 30.0 mL | CCO | C2H6O
solvent | water | 80.0 mL | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(PPh3)4 | 2.8 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(5-chloro-3′-nitro-biphenyl-2-yl)-propionaldehyde | 5.27 g | ClC=1C=CC(=C(C1)C1=CC(=CC=C1)[N+](=O)[O-])CCC=O | C15H12ClNO3
